US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-5-chloro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine
The above {4-[(2,5-dichloro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester (97 mg, 0.26 mmol) was dissolved in 2-trifluoromethoxy-benzylamine (2.5 mL) and the mixture was heated to 180° C. for 20 min. The reaction mixture was diluted with EtOAc and poured into 1N HCl solution. The aqueous layer was separated and extracted with EtOAc (×2). The combined organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was dissolved in CH2Cl2 (2.5 mL) and TFA (2.5 mL) was added. The reaction mixture was stirred at room temperature for 1 h. The mixture was then poured into 10% NaHCO3 and the aqueous layer was extracted with EtOAc (×2). The combined organic phase was dried over anhydrous Na2SO4 and concentrated in vacuo. The resulting residue was purified by silica gel preparative TLC using 9:1:0.1 CH2Cl2:MeOH:NH4OH as an eluent to afford 97 mg (87%) of the title compound, m/z 430.5 (M+1)+.

reactant | {4-[(2,5-dichloro-pyrimidin-4-ylamino)-methyl]-cyclohexyl}-carbamic acid tert-butyl ester | 0.26 mmol, 97 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1Cl)Cl)=O | C16H24Cl2N4O2
reactant | HCl | 1N | Cl | ClH
reactant | 2-trifluoromethoxy-benzylamine | 2.5 mL | FC(OC1=C(CN)C=CC=C1)(F)F | C8H8F3NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N4-[(trans-4-aminocyclohexyl)methyl]-5-chloro-N2-[2-(trifluoromethoxy)benzyl]pyrimidine-2,4-diamine | 97 mg, 87% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1Cl)NCC1=C(C=CC=C1)OC(F)(F)F | C19H23ClF3N5O
